US05508408
Example 4: 4-[3-(7-trifluoromethyl-2-quinolinylmethoxy)phenylamino]-2,2-diethyl-4-oxobutanoic acid
3-(7-trifluoromethyl-2-quinolinylmethoxy)aniline: 3.0 g of sodium carbonate are added to a solution of 2.0 g of 3-aminophenol in 200 ml of acetone and the mixture is stirred for 15 min. at 50°. 5.2 g of 2-bromomethyl-7-trifluoromethylquinoline, 6.1 g of caesium carbonate and 0.1 g of potassium iodide are added thereto and boiling under reflux is carried out for 2 hours. The reaction mixture is filtered, the precipitate is washed with acetone and the filtrate is concentrated by evaporation. The residue is taken up in hexane/ethyl acetate 3:2 and filtered over silica gel. The filtrate is concentrated by evaporation and the resulting oil is chromatographed on 400 g of silica gel using hexane/ethyl acetate 3:2. The title compound is obtained in the form of a yellow solid of m.p. 85°-86°.

reactant | 3-(7-trifluoromethyl-2-quinolinylmethoxy)aniline | FC(C1=CC=C2C=CC(=NC2=C1)COC=1C=C(N)C=CC1)(F)F | C17H13F3N2O
reactant | sodium carbonate | 3.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-aminophenol | 2.0 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | 2-bromomethyl-7-trifluoromethylquinoline | 5.2 g | BrCC1=NC2=CC(=CC=C2C=C1)C(F)(F)F | C11H7BrF3N
reactant | caesium carbonate | 6.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 4-[3-(7-trifluoromethyl-2-quinolinylmethoxy)phenylamino]-2,2-diethyl-4-oxobutanoic acid | FC(C1=CC=C2C=CC(=NC2=C1)COC=1C=C(C=CC1)NC(CC(C(=O)O)(CC)CC)=O)(F)F | C25H25F3N2O4
